US07902367B2
Step 81a) 1-Trifluoroacetyl-3-[[4-(4-fluorophenoxy)phenyl]methoxy]piperidine
Using 1-trifluoroacetyl-3-hydroxypiperidine (394 mg, 2.00 mmol) and 4-(4-fluorophenoxy)benzylchloride (473 mg, 2.00 mmol), the same procedure was followed as in Step 6a of Example 6 to give 434 mg (55%) of the desired compound as a colorless oil.

reactant | 1-trifluoroacetyl-3-hydroxypiperidine | 2.00 mmol, 394 mg | FC(C(=O)N1CC(CCC1)O)(F)F | C7H10F3NO2
reactant | 4-(4-fluorophenoxy)benzylchloride | 2.00 mmol, 473 mg | FC1=CC=C(OC2=CC=C(CCl)C=C2)C=C1 | C13H10ClFO
product | 1-Trifluoroacetyl-3-[[4-(4-fluorophenoxy)phenyl]methoxy]piperidine | 434 mg, 55% | FC(C(=O)N1CC(CCC1)OCC1=CC=C(C=C1)OC1=CC=C(C=C1)F)(F)F | C20H19F4NO3
